US07531553B2
Step A: 1-[2-(5-Nitro-2-pentafluoroethylphenoxy)-ethyl]-pyrrolidine.
A flask was charged with 5-nitro-2-pentafluoroethyl-phenol (3.67 g, 14.2 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (9.71 g, 57.1 mmol), K2CO3 (7.9 g, 57.1 mmol), and acetone (20 mL). The reaction was heated at 70° C. for 3 days. The acetone evaporated from the reaction. No reaction was observed, so the organic material was recovered by extraction of water with EtOAc. The organic layer was dried with MgSO4, filtered and concentrated in vacuo. This crude mixture was dissolved in DMF (20 mL), combined with K2CO3 (5.9 g, 42.1 mmol) and heated to 70° C. for 24 h. The reaction mixture was cooled to RT, taken up in EtOAc and washed with 2 N NaOH, and brine. The organic layer was dried with MgSO4, filtered and concentrated in vacuo. The aqueous layer was acidified, extracted with EtOAc and dried with MgSO4, filtered, concentrated in vacuo and combined with the other portion. The title compound was purified by column chromatography using 0-10% MeOH in CH2Cl2.

reactant | 5-nitro-2-pentafluoroethyl-phenol | 14.2 mmol, 3.67 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(C(F)(F)F)(F)F | C8H4F5NO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 57.1 mmol, 9.71 g | Cl.ClCCN1CCCC1
reactant | K2CO3 | 57.1 mmol, 7.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | K2CO3 | 42.1 mmol, 5.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(5-Nitro-2-pentafluoroethylphenoxy)-ethyl]-pyrrolidine | [N+](=O)([O-])C=1C=CC(=C(OCCN2CCCC2)C1)C(C(F)(F)F)(F)F | C14H15F5N2O3
